US04082751
2-(5-Methoxy-2-n-propoxyphenyl)-5-(5-1H-tetrazolyl)pyrimidin-4(3H)-one
In a manner similar to that described for the preparation of 2-(2-cyclopropylmethoxyphenyl)-5-(5-1H-tetrazolyl)pyrimidin-4(3H)-one in Example 9, the title compound was prepared from 1,6-dihydro-6-oxo-2-(5-methoxy-2-n-propoxyphenyl)pyrimidine-5-carbonitrile. The crude product was recrystallized from 2-methoxyethanol to give analytical material (65%), m.p. 257°-260°.

reactant | 2-(2-cyclopropylmethoxyphenyl)-5-(5-1H-tetrazolyl)pyrimidin-4(3H)-one | C1(CC1)COC1=C(C=CC=C1)C1=NC=C(C(N1)=O)C1=NN=NN1 | C15H14N6O2
reactant | 1,6-dihydro-6-oxo-2-(5-methoxy-2-n-propoxyphenyl)pyrimidine-5-carbonitrile | O=C1C(=CN=C(N1)C1=C(C=CC(=C1)OC)OCCC)C#N | C15H15N3O3
product | 2-(5-Methoxy-2-n-propoxyphenyl)-5-(5-1H-tetrazolyl)pyrimidin-4(3H)-one | COC=1C=CC(=C(C1)C1=NC=C(C(N1)=O)C1=NN=NN1)OCCC | C15H16N6O3
